US06319917B1
e) (R)-(N-Methyl-N-tert-butyloxycarbonyl-amino)-3-(naphth-2-yl)-propanal
A solution of 21.8 g of (R)-N-methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanecarboxylic acid methyl ester in 497 ml of toluene is cooled to −78° under argon, and 146 ml of a 20% diiso-butylaluminium hydride solution in toluene are added dropwise thereto (60 min.). When the dropwise addition is complete, the mixture is stirred at −78° for a further 60 min. There are then added 17.8 ml of methanol at −74°, and 35 g of citric acid dissolved in 665 ml of water in such a manner that the temperature does not exceed −10°. The mixture is stirred vigorously at 0° for 2 hours and diluted with diethyl ether. The resulting suspension is filtered with suction. In the filtrate the phases are then separated and the aqueous phase is extracted once more with diethyl ether. The combined organic phases are washed with water and sat. NaCl solution, dried (sodium sulfate) and concentrated by evaporation. The title compound is thus obtained in the form of beige crystals having a melting point of 98-100°. Rf (hexane/ethyl acetate=3/2)=0.51.

reactant | (R)-N-methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanecarboxylic acid methyl ester | 21.8 g | COC(=O)[C@@H](CCC1=CC2=CC=CC=C2C=C1)N(C(=O)OC(C)(C)C)C | C21H27NO4
reactant | diiso-butylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 17.8 ml | CO | CH4O
reactant | citric acid | 35 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 497 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 665 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-(N-Methyl-N-tert-butyloxycarbonyl-amino)-3-(naphth-2-yl)-propanal | CN(C(=O)OC(C)(C)C)[C@@H](C=O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO3
